US08198279B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(2-fluoro-4-(2-oxo-1,2-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea (AA-048)
Method F2 was used with 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-2(1H)-one and 3-trifluoromethyl-4-chloro-phenylisocyanate to afford the title compound as a beige powder. Yield: 60 mg (79%).

reactant | 8-(4-amino-3-fluorophenoxy)pyrido[2,3-b]pyrazin-2(1H)-one | NC1=C(C=C(OC2=CC=NC=3N=CC(NC32)=O)C=C1)F | C13H9FN4O2
reactant | 3-trifluoromethyl-4-chloro-phenylisocyanate | FC(C=1C=C(C=CC1Cl)N=C=O)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-(2-fluoro-4-(2-oxo-1,2-dihydro pyrido[2,3-b]pyrazin-8-yloxy)phenyl)urea | ClC1=C(C=C(C=C1)NC(=O)NC1=C(C=C(C=C1)OC1=CC=NC=2N=CC(NC21)=O)F)C(F)(F)F | C21H12ClF4N5O3
